US06211199B1
34.6 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine
Combine 3-(2-(t-butyldimethylsilyloxy)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine (0.13 g, 0.38 mmol) and tetrahydrofuran (2 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of potassium bis(trimethylsilyl)amide (0.76 mL, 0.5 M in toluene, 0.38 mmol). After 30 minutes, add a solution of 3,4,5-trimethoxybenzyl chloride (0.08 g, 0.38 mmol) in tetrahydrofuran (1 mL). Warm to ambient temperature and add tetrabutylammonium bromide (0.01 g). Heat to reflux. After 12 hours, cool the reaction mixture and partition between water and ethyl acetate. Separate the aqueous layer and extract twice with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/4 ethyl acetate/hexane to give the title compound: Rf=0.43 (silica gel, 1/1 ethyl acetate/hexane).

reactant | 3-(2-(t-butyldimethylsilyloxy)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine | 0.38 mmol, 0.13 g | [Si](C)(C)(C(C)(C)C)OCCC1(CNC(C1)=O)CC1=CC=CC=C1 | C19H31NO2Si
reactant | potassium bis(trimethylsilyl)amide | 0.38 mmol, 0.5 M, 0.76 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3,4,5-trimethoxybenzyl chloride | 0.38 mmol, 0.08 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 0.01 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(3,4,5-trimethoxybenzyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine | COC=1C=C(CN2CC(CC2=O)(CC2=CC=CC=C2)CCO[Si](C)(C)C(C)(C)C)C=C(C1OC)OC | C29H43NO5Si
